US08455488B2
Synthesis of ethyl 2-(1-Methyl-2-(benzylcarbamoyl)hydrazinyl)acetate (Compound V-2)
According to the procedure described in the synthesis method of Compound V-1 with the modification that the reaction was carried out overnight, ethyl 2-(1-methylhydrazinyl)acetate (Compound XV-2) 10 ml (76 mmol) was reacted with benzyl isocyanate 11.1 g (83.3 mmol) to obtain the title compound 15.2 g (76%).

reactant | ethyl 2-(1-methylhydrazinyl)acetate | 76 mmol, 10 ml | CN(N)CC(=O)OCC | C5H12N2O2
reactant | benzyl isocyanate | 83.3 mmol, 11.1 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | ethyl 2-(1-Methyl-2-(benzylcarbamoyl)hydrazinyl)acetate | 15.2 g, 76% | CN(NC(NCC1=CC=CC=C1)=O)CC(=O)OCC | C13H19N3O3
